### PR TITLE
[Merged by Bors] - feat(ContinuousFunctionalCalculus): `cfc` applied to products and pi types

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that `cfc f ⟨a, b⟩ = ⟨cfc f a, cfc f b⟩` and `cfc f (x : ∀ i, A i) = fun i => cfc f (x i)` and likewise for the non-unital case. Specialized version for `nnrpow`, `rpow` and `sqrt` are also given.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 1]
```diff
@@ -73,6 +74,18 @@ variable {A : Type*} [PartialOrder A] [NonUnitalRing A] [TopologicalSpace A] [St
...
+variable {B : Type*} [PartialOrder B] [NonUnitalRing B] [TopologicalSpace B] [StarRing B]
+  [Module ℝ B] [SMulCommClass ℝ B B] [IsScalarTower ℝ B B]
+  [NonUnitalContinuousFunctionalCalculus ℝ≥0 B (0 ≤ ·)]
+  [NonUnitalContinuousFunctionalCalculus ℝ≥0 (A × B) (0 ≤ ·)]
+
+variable {ι : Type*} {C : ι → Type*} [∀ i, PartialOrder (C i)] [∀ i, NonUnitalRing (C i)]
+  [∀ i, TopologicalSpace (C i)] [∀ i, StarRing (C i)]
+  [∀ i, Module ℝ (C i)] [∀ i, SMulCommClass ℝ (C i) (C i)] [∀ i, IsScalarTower ℝ (C i) (C i)]
+  [∀ i, NonUnitalContinuousFunctionalCalculus ℝ≥0 (C i) (0 ≤ ·)]
+  [NonUnitalContinuousFunctionalCalculus ℝ≥0 (∀ i, C i) (0 ≤ ·)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:86]: Since these `variable` blocks cause big slowdowns with regard to elaboration (which we need to fix separately), can you just put them locally on the declaration (or in a mini section around each declaration)? Or if it makes more sense, group all the `pi` and all the `prod` results in this file in their own sections.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Pi.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+/-! # The continuous functional calculus on product types
+
+This file contains results about the continuous functional calculus on (indexed) product types.
+
+## Main theorems
+
++ `cfc_map_pi` and `cfcₙ_map_pi`: given `a : ∀ i, A i`, then `cfc f a = fun i => cfc f (a i)`
+  (and likewise for the non-unital version)
++ `cfc_map_prod` and `cfcₙ_map_prod`: given `a : A` and `b : B`, then
+  `cfc f ⟨a, b⟩ = ⟨cfc f a, cfc f b⟩` (and likewise for the non-unital version)
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Pi.lean]: Huh. I thought those were equivalent actually.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: I have made the file compliant with the library note. I did involve adding a few extra typeclass assumptions such as `StarOrderedRing` and ` NonnegSpectrumClass`.

[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: It's also an extra 30% imports according to that script above...

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 3]
```diff
@@ -319,6 +404,51 @@ lemma rpow_intCast (a : Aˣ) (n : ℤ) (ha : (0 : A) ≤ a := by cfc_tac) :
...
+  [Algebra ℝ B] [ContinuousFunctionalCalculus ℝ B IsSelfAdjoint]
+  [ContinuousFunctionalCalculus ℝ (A × B) IsSelfAdjoint]
+  [IsTopologicalRing B] [T2Space B] [StarOrderedRing (A × B)]
+  [NonnegSpectrumClass ℝ B] [NonnegSpectrumClass ℝ (A × B)]
+
+/- Note that there is higher-priority instance of `Pow (A × B) ℝ` coming from the `Pow` instance for
+products, hence the direct use of `rpow` here. -/
+lemma rpow_map_prod {a : A} {b : B} {x : ℝ} (ha : 0 ∉ spectrum ℝ≥0 a) (hb : 0 ∉ spectrum ℝ≥0 b)
+    (ha' : 0 ≤ a := by cfc_tac) (hb' : 0 ≤ b := by cfc_tac) :
+    rpow (a, b) x = (a ^ x, b ^ x) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:421]: This comment makes me wonder:

1. Should we add this to the module docstring as an example of why we have the lower priority in the first place?
2. Should this be phrased as `rpow ab x = ab ^ x` for `ab : A × B`? You could call that `rpow_eq_rpow_prod`? You could keep this lemma around too for convenience.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 4]
```diff
@@ -319,6 +404,51 @@ lemma rpow_intCast (a : Aˣ) (n : ℤ) (ha : (0 : A) ≤ a := by cfc_tac) :
...
+  [∀ i, Algebra ℝ (C i)] [∀ i, ContinuousFunctionalCalculus ℝ (C i) IsSelfAdjoint]
+  [ContinuousFunctionalCalculus ℝ (∀ i, C i) IsSelfAdjoint]
+  [∀ i, IsTopologicalRing (C i)] [∀ i, T2Space (C i)]
+  [NonnegSpectrumClass ℝ (∀ i, C i)] [∀ i, NonnegSpectrumClass ℝ (C i)]
+
+/- Note that there is a higher-priority instance of `Pow (∀ i, B i) ℝ` coming from the `Pow`
+instance for pi types, hence the direct use of `rpow` here. -/
+lemma rpow_map_pi {c : ∀ i, C i} {x : ℝ} (hc : ∀ i, 0 ∉ spectrum ℝ≥0 (c i))
+    (hc' : ∀ i, 0 ≤ c i := by cfc_tac) :
+    rpow c x = fun i => (c i) ^ x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:445]: same comment

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 5]
```diff
@@ -151,6 +156,50 @@ lemma nnrpow_inv_eq (a b : A) {x : ℝ≥0} (hx : x ≠ 0) (ha : 0 ≤ a := by c
...
+  [NonUnitalContinuousFunctionalCalculus ℝ (A × B) IsSelfAdjoint]
+  [IsTopologicalRing B] [T2Space B]
+  [NonnegSpectrumClass ℝ B] [NonnegSpectrumClass ℝ (A × B)]
+  [StarOrderedRing B]
+
+/- Note that there is higher-priority instance of `Pow (A × B) ℝ≥0` coming from the `Pow` instance
+for products, hence the direct use of `nnrpow` here. -/
+lemma nnrpow_map_prod {a : A} {b : B} {x : ℝ≥0}
+    (ha : 0 ≤ a := by cfc_tac) (hb : 0 ≤ b := by cfc_tac) :
+    nnrpow (a, b) x = (a ^ x, b ^ x) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:173]: also here

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 6]
```diff
@@ -151,6 +156,50 @@ lemma nnrpow_inv_eq (a b : A) {x : ℝ≥0} (hx : x ≠ 0) (ha : 0 ≤ a := by c
...
+  [∀ i, Module ℝ (C i)] [∀ i, SMulCommClass ℝ (C i) (C i)] [∀ i, IsScalarTower ℝ (C i) (C i)]
+  [∀ i, NonUnitalContinuousFunctionalCalculus ℝ (C i) IsSelfAdjoint]
+  [NonUnitalContinuousFunctionalCalculus ℝ (∀ i, C i) IsSelfAdjoint]
+  [∀ i, IsTopologicalRing (C i)] [∀ i, T2Space (C i)]
+  [NonnegSpectrumClass ℝ (∀ i, C i)] [∀i, NonnegSpectrumClass ℝ (C i)]
+
+/- Note that there is higher-priority instance of `Pow (∀ i, C i) ℝ≥0` coming from the `Pow`
+instance for pi types, hence the direct use of `nnrpow` here. -/
+lemma nnrpow_map_pi {c : ∀ i, C i} {x : ℝ≥0} (hc : ∀ i, 0 ≤ c i := by cfc_tac) :
+    nnrpow c x = fun i => (c i) ^ x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:196]: and here

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean (hunk 3 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean:421]: Done; we now have the two versions of the four lemmas.

**Comment by j-loreaux** [comment]
bors merge
